US08835432B2
To a mixture of (R)-1-(2-chloro-7-fluoroquinolin-3-yl)ethanol (3.03 g, 13.4 mmol), phthalimide (2.37 g, 1.20 eq) and PPh3 (4.23 g, 1.20 eq) in THF (70 mL) was added DIAD (3.13 mL, 1.20 eq) dropwise at 0° C. The mixture was then stirred at rt overnight before partitioning between EtOAc (200 mL) and water (200 mL). The organic layer was separated, washed with water, brine, dried over Na2SO4 and concentrated. The residue was purified by column chromatography on silica gel (DCM) to give a white foam of (S)-2-(1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione (3.8 g, 80%). Mass Spectrum (ESI) m/e=355 (M+1).

reactant | (R)-1-(2-chloro-7-fluoroquinolin-3-yl)ethanol | 13.4 mmol, 3.03 g | ClC1=NC2=CC(=CC=C2C=C1[C@@H](C)O)F | C11H9ClFNO
reactant | phthalimide | 2.37 g, 1.20 eq | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | PPh3 | 4.23 g, 1.20 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 3.13 mL, 1.20 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | (S)-2-(1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione | 3.8 g, 80% | ClC1=NC2=CC(=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)F | C19H12ClFN2O2
